US08476261B2
53F) Preparation of 2-[1-(benzylamino)cyclobutyl]-N-(tert-butoxycarbonyl)ethylamine
Boc2O (230 mg, 1.05 mmol) was added to a solution of 2-[1-(benzylamino)cyclobutyl]ethylamine (205 mg, 1.00 mmol) in THF (1 mL) in an ice-water bath. The mixture was stirred for 30 minutes in an ice-water bath. The mixture was concentrated in vacuo, and flash chromatography (AcOEt:Hexane=2:1) of the residue gave the title compound as a colorless solid (164 mg, 54%). 1H-NMR (400 MHz, DMSO-d6) δ 1.36 (9H, s), 1.60-1.84 (6H, m), 1.84-1.94 (2H, m), 2.92-3.04 (2H, m), 3.53 (2H, s), 6.83 (1H, t, J=5.5 Hz), 7.21 (1H, t, J=7.3 Hz), 7.29 (2H, t, J7 7.3 Hz), 7.35 (2H, d J=7.3 Hz).

reactant | Boc2O | 1.05 mmol, 230 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-[1-(benzylamino)cyclobutyl]ethylamine | 1.00 mmol, 205 mg | C(C1=CC=CC=C1)NC1(CCC1)CCN | C13H20N2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-[1-(benzylamino)cyclobutyl]-N-(tert-butoxycarbonyl)ethylamine | 164 mg, 54% | C(C1=CC=CC=C1)NC1(CCC1)C(CN)C(=O)OC(C)(C)C | C18H28N2O2
